US08012978B2
To a solution of DC101SMe ((S)—N-(2-(1-(chloromethyl)-5-hydroxy-2,3-dihydro-1H-benzo[e]indole-3-carbonyl)-1H-indol-5-yl)-3-(methyldisulfanyl)propanamide, 100 mg 0.19 mmol) in 10 ml of DMA was added DIPEA (35 μl, 0.20 mmol). After stirred under Ar for 3 min., 32.0 mg (0.20 mmol) of carbonyldiimidazole was added. The mixture was stirred for 2 hours and TLC showed all DC101SMe was consumed, then fresh prepared 3-aminobenzenesulfonate diisopropylethylamine salt (65 mg, 0.21 mmol) was added. The mixture was stirred under Ar for 24 h and HPLC showed the reaction completed to form DC107SMe [(S)-3-((1-(chloromethyl)-3-(5-(3-(methyldisulfanyl)propanamido)-1H-indole-2-carbonyl)-2,3-dihydro-1H-benzo[e]indol-5-yloxy)carbonylamino)benzenesulfonic acid]. The mixture was concentrated to ˜5 ml with oil pump and used directly for next step without further purification.

reactant | (S)—N-(2-(1-(chloromethyl)-5-hydroxy-2,3-dihydro-1H-benzo[e]indole-3-carbonyl)-1H-indol-5-yl)-3-(methyldisulfanyl)propanamide | ClC[C@@H]1CN(C=2C=C(C3=C(C12)C=CC=C3)O)C(=O)C=3NC1=CC=C(C=C1C3)NC(CCSSC)=O | C26H24ClN3O3S2
reactant | DIPEA | 0.20 mmol, 35 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | carbonyldiimidazole | 0.20 mmol, 32.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-aminobenzenesulfonate diisopropylethylamine | 0.21 mmol, 65 mg | C(C)(C)N(CC)C(C)C.NC=1C=C(C=CC1)S(=O)(=O)O
solvent | DMA | 10 ml | CC(=O)N(C)C | C4H9NO
product | (S)-3-((1-(chloromethyl)-3-(5-(3-(methyldisulfanyl)propanamido)-1H-indole-2-carbonyl)-2,3-dihydro-1H-benzo[e]indol-5-yloxy)carbonylamino)benzenesulfonic acid | ClC[C@@H]1CN(C=2C=C(C3=C(C12)C=CC=C3)OC(=O)NC=3C=C(C=CC3)S(=O)(=O)O)C(=O)C=3NC1=CC=C(C=C1C3)NC(CCSSC)=O | C33H29ClN4O7S3
